US06291499B1
Example 6 was prepared in a similar manner to Examples 4 and 5 above. A mixture of 250 mg of 3:1 mixture of exo and endo 5-(4-chloro-benzyl)-bicyclo[2.2.2]octan-2-one was prepared from 5-acetoxy-5-cyanobicyclo[2.2.2]octan-2-one in three sequential steps without isolating intermediate products. The first two steps were similar to those described in Steps 1 and 2 of Example 4 above, sequential treatment with sodium borohydride in ethanol, sodium hydroxide, formed 5-hydroxybicyclo[2.2.2]octan-2-one. Olefination, hydrogenation, and Swern oxidation of the product, 5-(4-chloro-benzyl)-bicyclo[2.2.2]octan-2-ol followed. To the resulting product was added 400 mg of 2-aminomethylbenzimidazole dihydrochloride, 150 mg of anhydrous sodium acetate, 10 mL of 1,2-dichloroethane and 400 mg of sodium triacetoxyborohydride, and stirred overnight in a stoppered flask. The mixture was diluted with 50 mL of chloroform and washed with 20 mL of saturated sodium carbonate. The organic extract was dried over magnesium sulfate and concentrated under reduced pressure. Preparative TLC eluting with 95:5:5 ethyl acetate:methanol:triethyl amine gave (1H-benzimidazol-2-ylmethyl)-[5-(4-chloro-benzyl)-bicyclo[2.2.2]oct-2-yl]-amine as a racemic mixture of four diastereomers: MS (m+1)=380.9; 1H NMR (400 MHz, CDCl3) 7.6 (br s, 1H), 7.2 (m, 4H), 7.05 (m, 2H), 4.04 and 4.06 (2×s, 2H), 2.85 (m, 1H), 2.6-5 (m, 3H), 2.0-1.0 (complex, 12H).

reactant | 5-(4-chloro-benzyl)-bicyclo[2.2.2]octan-2-ol | ClC1=CC=C(CC2C3CC(C(C2)CC3)O)C=C1 | C15H19ClO
reactant | 2-aminomethylbenzimidazole dihydrochloride | 400 mg | Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
reactant | sodium acetate | 150 mg | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 400 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (1H-benzimidazol-2-ylmethyl)-[5-(4-chloro-benzyl)-bicyclo[2.2.2]oct-2-yl]-amine | N1C(=NC2=C1C=CC=C2)CNC2C1CC(C(C2)CC1)CC1=CC=C(C=C1)Cl | C23H26ClN3
